US07476759B2
4-(Benzyloxy)-2-(4-bromophenyl)-4-oxobutanoic acid
A suspension of 4-benzyl 1-tert-butyl 2-(4-bromophenyl)succinate (3.00 g, 7.15 mmol) and silica gel (35.7 g) in toluene (230 mL) was heated at reflux for 3 h. The crude mixture was cooled to room temperature and filtered. The filter cake was washed with dichloromethane/methanol (8:2; 2×100 mL) then the organic filtrates were combined and evaporated to dryness to give the title compound as a white solid (2.25 g, 87%). LC/MS: 3.41 min; z/e 361 and 363, calcd (M−1) 361 and 363. 1H NMR (400 MHz: CDCl3): 7.40 (2H), 7.30 (5H), 7.15 (2H), 5.10 (2H), 4.05 (1H), 3.15 (1H), 2.70 (1H).

reactant | 4-benzyl 1-tert-butyl 2-(4-bromophenyl)succinate | 7.15 mmol, 3.00 g | BrC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)CC(=O)OCC1=CC=CC=C1 | C21H23BrO4
solvent | toluene | 230 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(Benzyloxy)-2-(4-bromophenyl)-4-oxobutanoic acid | 2.25 g, 87% | C(C1=CC=CC=C1)OC(CC(C(=O)O)C1=CC=C(C=C1)Br)=O | C17H15BrO4
